US04616014
A solution of triethylamine (5.455 g) in chloroform (5 ml) was added dropwise to a stirred solution of 2-amino-1-(2-thienyl)-1-propanone hydrochloride (2.585 g) in chloroform (26 ml) under ice cooling in 5 minutes. To the mixture was added dropwise a solution of ethyl chloroformate (2.929 g) in chloroform (7 ml), and the stirring was continued for 2 hours under the same conditions. The reaction mixture was evaporated, and the residue was dissolved in a mixture of ethyl acetate and water. The organic layer was separated, washed successively with a saturated aqueous solution of sodium bicarbonate, water, 5% hydrochloric acid and water, dried over magnesium sulfate and evaporated to give an oil of 2-(2-ethoxycarbonylaminopropionyl)thiophene (2.752 g).

reactant | triethylamine | 5.455 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1-(2-thienyl)-1-propanone hydrochloride | 2.585 g | Cl.NC(C(=O)C=1SC=CC1)C
reactant | ethyl chloroformate | 2.929 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 26 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-ethoxycarbonylaminopropionyl)thiophene | 2.752 g | C(C)OC(=O)NC(C(=O)C=1SC=CC1)C | C10H13NO3S
